US04627933
65 g of POCl3 is added dropwise at 50° and while stirring to a solution, in 500 ml of DMF, of 31.3 g of p-carbamoylbenzyl p-ethoxyphenylacetate (obtainable by esterification). After stirring for a further hour, the mixture is poured onto ice and worked up in a customary manner to give p-cyanobenzyl p-ethoxyphenylacetate, m.p. 59°, c.p. -40°.

reactant | POCl3 | 65 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | p-carbamoylbenzyl p-ethoxyphenylacetate | 31.3 g | C(C)OC1=CC=C(C=C1)CC(=O)OCC1=CC=C(C=C1)C(N)=O | C18H19NO4
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | p-cyanobenzyl p-ethoxyphenylacetate | C(C)OC1=CC=C(C=C1)CC(=O)OCC1=CC=C(C=C1)C#N | C18H17NO3
